US08426437B2
314 μL (2.25 mmol) of triethylamine and 189 μL (1.65 mmol) of cyclohexylamine are added to 490 mg (1.5 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid suspended in 4 mL of anhydrous dichloromethane and 1 mL of anhydrous dimethylformamide. The reaction mixture is stirred for 2 days at room temperature. The solvents are evaporated, and the residue is taken up in water. The solid is filtered, rinsed with water then diisopropyl ether and dried under vacuum to give 258 mg (44%) of 8-cyclohexylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a cream-coloured solid.

reactant | triethylamine | 2.25 mmol, 314 μL | C(C)N(CC)CC | C6H15N
reactant | cyclohexylamine | 1.65 mmol, 189 μL | C1(CCCCC1)N | C6H13N
reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 1.5 mmol, 490 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 8-cyclohexylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 258 mg, 44% | C1(CCCCC1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C18H19N3O5S
